Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Positive blood cultures 
 
Major Surgical or Invasive Procedure:
___: ___ removal

 
History of Present Illness:
The patient is a ___ yo woman with ALL, now DAY ___ s/p 
allogeneic stem cell transplant, who is admitted for evaluation 
of a positive blood culture. pt was last admitted on ___ 
with similar issues. she was noted to have coag -ve staph and 
was started on 1g of vanco daily. her subsequently cultures came 
back negative. she was discharged home with a course of vanco 
which she finished ___. she was seen in clinic yesterday 
without complaints of fever, chill or rigor. she did however 
have surveillance cultures drawn from her line which today grew 
GPC. she was called to come into the ed where she was noted to 
be afebrile and hemodynamically stable. no clear source of 
infection noted. line site appears intact. pt was started on 
vancomycin and admitted for further care. 
 
Past Medical History:
Acute lymphocytic leukemia
The patient initially presented in ___ to an OSH with vague LUQ 
discomfort. Initial abdominal imaging demonstrated gallstones. 
In ___, she presented with chest pain radiating to her left 
arm, shortness of breath, and weakness with WBC 123, Hct 19.6, 
and Plt 23. Acute MI was ruled out. Abdominal US demonstrated 
splenomegaly. She was transferred to ___ for further 
evaluation and treatment of leukemia. She was started on 
hydroxyurea and dexamethasone with allopurinol and bicarbonate 
prophylaxis. Bone marrow biopsy and peripheral smear were 
consistent with ALL with 9;22 translocation. Initial evaluation 
with echocardiogram and LP were unremarkable. After two cycles 
of Hyper CVAD, parts A and B, she underwent a matched unrelated 
allogeneic stem cell transplantation wtih cyclophosphamide and 
ATG conditioning on the XOMA trial on ___.

ADDITIONAL MEDICAL HISTORY:  
1. HTN  

 
Social History:
___
Family History:
Mom - HTN, hypercholesterolemia
Dad - MI at ___ y.o., deceased at ___ y.o. from cardiac disease
Sister - healthy
___ any oncologic history, including leukemias or lymphomas.
 
Physical Exam:
VITALS: 96.9, 82, 154/76, 16, 99% on ra  
GEN: NAD, A&Ox3  
HEENT: Clear OP, MMM.  
NECK: Supple, No LAD, No JVD. Bilateral new lines  
CV: RR, NL rate. NL S1, S2.  
LUNGS: CTA, BS ___, No W/R/C  
ABD: Soft, NT, ND. NL BS. No HSM  
EXT: No edema. 2+ DP pulses ___  
SKIN: No lesions  
NEURO: A&Ox3. Appropriate. CN ___ intact.  

 
Pertinent Results:
___ 12:05AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 12:40AM   WBC-8.1 RBC-2.77* HGB-8.7* HCT-25.1* MCV-91 
MCH-31.3 MCHC-34.5 RDW-18.3*
___ 12:40AM   ALBUMIN-4.2 CALCIUM-9.4 MAGNESIUM-2.2
___ 12:40AM   LIPASE-32
___ 12:40AM   ALT(SGPT)-27 AST(SGOT)-65* ALK PHOS-121* TOT 
BILI-0.3
___ 12:40AM   GLUCOSE-98 UREA N-40* CREAT-1.9* SODIUM-134 
POTASSIUM-6.3* CHLORIDE-105 TOTAL CO2-17* ANION GAP-18
___ 05:50AM   GLUCOSE-79 UREA N-36* CREAT-1.9* SODIUM-134 
POTASSIUM-4.6 CHLORIDE-104 TOTAL CO2-19* ANION GAP-16
___ 05:50AM   ALBUMIN-4.1 CALCIUM-9.7 MAGNESIUM-2.0
___ 05:50AM   WBC-7.5 RBC-2.76* HGB-8.7* HCT-24.6* MCV-89 
MCH-31.6 MCHC-35.4* RDW-18.1*

___ 1:50 pm BLOOD CULTURE     Site: ___
Blood Culture, Routine (Preliminary): 
STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET 
ONLY. 
SENSITIVITIES PERFORMED ON REQUEST.. 

Blood cx ___ and ___ NGTD

___ CATHETER TIP-IV Source: tunneled catheter. WOUND 
CULTURE: No significant growth. 

___ 09:00AM BLOOD Cyclspr-171

___
TTE: The left atrium is normal in size. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF 70%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic regurgitation. No masses or 
vegetations are seen on the aortic valve. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. No mass or vegetation is seen 
on the mitral valve. The estimated pulmonary artery systolic 
pressure is normal. No vegetation/mass is seen on the pulmonic 
valve. There is no pericardial effusion. 
Compared with the findings of the prior study (images reviewed) 
of ___, the findings are similar.

IMPRESSION: no obvious vegetations

 
Brief Hospital Course:
___ woman DAY ___ s/p MUD allo SCT for ALL, recent admission 
for coag negative staph positive blood cultures for which she 
was completed a course of vancomycin now with repeat coag 
negative staph positive blood cultures on surveillance cultures. 
  
1. Coagulase negative Staph bacteremia: Patient has had repeat 
positive blood cultures but has been asymptomatic without 
fevers. The most likely source is her ___ catheter which was 
removed on ___. Repeat blood cultures were drawn and are no 
growth to date. She was started on and discharged on a course of 
vancomycin 1g IV q 48 hours. Level will be checked in clinic 
prior to dose administration. If ___ remain negative, she 
will obtain PICC line as outpatient. TTE was done which did not 
show any eveidence of endocarditis and no vegetations.  

2. Renal dysfunction: Patient has had fluctuating renal function 
and has been seen by renal who recommended stopping her calcium 
channel blocker. renal function during hospital stay at recent 
baseline and improved slightly with IV fluids. She is planned to 
receive IVF as outpt when she receives her vanco. 

3. Anemia: HCT slightly decreased fom baseline. She was ordered 
for transfusion if 1 unit PRBC at follow up on ___ in clinic.   


4. Nausea: Continued on Prednisone 2.5 mg PO daily for ? GVH.  

5. ALL s/p allo BMT: Cyclosporine level checked and was 171. 
Continued on home doses. Continued on Acyclovir, Fluconazole.   
  
6. Hypertension: Patient hypertensive with SBP 150s-170s, HR 
___ during admission. Metoprolol titrated up from 37.5 PO 
BID to 50 PO BID. ___ require further titration as outpatient. 
 

 
Medications on Admission:
Famotidine 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
Prednisone 2.5 mg PO DAILY (Daily).  
Lorazepam 1 mg Tablet Sig: ___ Tablets PO every six (6) hours as 
needed.  
Metoprolol Tartrate 25 mg Tablet Sig: 1.5 Tablets PO BID (2 
times a day).  
Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times a 
day).  
Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.  
Multivitamin Capsule Sig: One (1) Capsule PO once a day.  
Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day as needed 
for constipation.  
Cyclosporine Modified 25 mg Capsule Sig: Four (4) Capsule PO qam 
at 10am.  
Cyclosporine 25 mg Capsule Sig: Five (5) Capsule PO QPM  
(once a day (in the evening)): Please take at 10pm.  
Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every  
24 hours).  

 
Discharge Medications:
1. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
2. Cyclosporine Modified 25 mg Capsule Sig: Four (4) Capsule PO 
qam.  
3. Neoral 25 mg Capsule Sig: Five (5) Capsule PO qpm.  
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.  
7. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q24H (every 24 
hours).  
8. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. Prednisone 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Metoprolol Tartrate 25 mg Tablet Sig: Two (2) Tablet PO 
twice a day.
Disp:*120 Tablet(s)* Refills:*2*
11. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed.  
12. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
13. Acyclovir 200 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
14. Vancomycin in Normal Saline 1 gram/250 mL Solution Sig: One 
(1) gram Intravenous q48 hours.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
1. Bacteremia
2. ALL s/p allo SCT
Secondary Diagnosis
1. HTN

 
Discharge Condition:
Hemodynamically stable, afebrile, repeat blood cultures negative 
to date

 
Discharge Instructions:
You were admitted to the hospital because you had a positive 
blood culture.  This may have been an infection from your 
___ line which was removed while you were in the hospital. 
To treat this infection, we started you on an antibiotic called 
Vancomycin which will need to be continued. You will receive 
this Antibiotic in clinic on ___ and ___. At 
that time, if your repeat cultures have been negative, we will 
most likely place a PICC line so you can get this antibiotic at 
home. You will also need to have the vanocmycin level drawn in 
clinic. In clinic, you will also receive blood for low blood 
counts as well as IV fluids if you are dehydrated. We also did 
an ultrasound of your heart to look for a source of your 
infections but this report was not available yet at the time of 
discharge. 

We made the following changes to your medications. 
1. We added Vancomycin 1 gram IV every 48 hours which you will 
receive in clinic. 
2. We increased your Metoprolol to 50mg twice a day

Please call your primary oncologist or the heme/onc or ___ 
fellow on call if you develop fever >100.4, chills, nausea, 
vomiting or are unable to take in enough food or liquid. 

 
Followup Instructions:
___